US07851471B2
(R)-2-hydroxymethyl-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (6.24 g, 19.7 mmol) was dissolved in THF (10 mL) and cooled to 0° C. 2M LiAlH4 in THF (30.0 mL, 60.0 mmol) was added. The reaction mixture was stirred at reflux for 4 hours and then cooled to 0° C. and quenched with the drop-wise addition of 1M sodium hydroxide solution (20 mL). The reaction mixture was diluted with THF (50 mL), filtered and the filtrate was concentrated in vacuo to give 1,4-dimethyl-(R)-2-hydroxymethyl piperazine (1.77 g, 62%) as a colourless oil which was used without further purification.

reactant | (R)-2-hydroxymethyl-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 19.7 mmol, 6.24 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CO | C15H28N2O5
reactant | LiAlH4 | 2M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 60.0 mmol, 30.0 mL | C1CCOC1 | C4H8O
product | 1,4-dimethyl-(R)-2-hydroxymethyl piperazine | 1.77 g, 62% | CN1[C@H](CN(CC1)C)CO | C7H16N2O
